US04548638
Methyl 2-[[(4-ethoxy-6-methylamino-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]benzoate
To a suspension of 0.8 g of 4-ethoxy-6-methylamino-1,3,5-triazin-2-amine in 25 ml of methylene chloride was added 1.14 g of 2-(methoxycarbonyl)benzenesulfonyl isocyanate. Dissolution of the suspension occurred, followed by precipitation of a solid. After 1 hour at ambient temperature, the solid was collected and dried giving 0.9 g of the title compound, m.p. 204°-206° C.

reactant | 4-ethoxy-6-methylamino-1,3,5-triazin-2-amine | 0.8 g | C(C)OC1=NC(=NC(=N1)NC)N | C6H11N5O
reactant | 2-(methoxycarbonyl)benzenesulfonyl isocyanate | 1.14 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-[[(4-ethoxy-6-methylamino-1,3,5-triazin-2-yl)aminocarbonyl]aminosulfonyl]benzoate | 0.9 g | C(C)OC1=NC(=NC(=N1)NC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C15H18N6O6S
